US03933799
21-Butyryloxy-11β-chloro-16β-methyl-17-propionyloxypregna-1,4-diene-3,20-dione
A solution of 11β-chloro-21-hydroxy-16β-methyl-17-propionyloxypregna-1,4-diene-3,20-dione (75 mg.) in pyridine (1 ml) at room temperature was treated with butyric anhydride (0.3 ml.). After four hours a little water was added and the solution poured into dilute hydrochloric acid. Filtration of the precipitated solid and crystallization from methanol afforded the title compound, m.p. 228°-229° (K), [α]D + 104.4° (c 0.6 chloroform) λmax 239 nm (ε 16,160) (Found: C, 67.1; H, 7.6; Cl, 6.4. C29H39Cl O6 requires C, 67.1; H, 7.55; Cl, 6.85%).

reactant | 11β-chloro-21-hydroxy-16β-methyl-17-propionyloxypregna-1,4-diene-3,20-dione | 75 mg | Cl[C@@H]1[C@@H]2[C@]3(C=CC(C=C3CC[C@H]2[C@@H]2C[C@@H]([C@](C(CO)=O)([C@]2(C1)C)OC(CC)=O)C)=O)C | C25H33ClO5
reactant | butyric anhydride | 0.3 ml | C(CCC)(=O)OC(CCC)=O | C8H14O3
reactant | water | O | H2O
reactant | hydrochloric acid | Cl | ClH
solvent | pyridine | 1 ml | N1=CC=CC=C1 | C5H5N
product | 21-Butyryloxy-11β-chloro-16β-methyl-17-propionyloxypregna-1,4-diene-3,20-dione | C(CCC)(=O)OCC([C@]1([C@H](C[C@H]2[C@@H]3CCC4=CC(C=C[C@]4(C)[C@H]3[C@H](C[C@]12C)Cl)=O)C)OC(CC)=O)=O | C29H39ClO6
